US07935688B2
(3) Synthesis of (R)-5-(4-{1-ethyl-1-[3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propyl}-2-methyl-phenoxymethyl)-dihydro-furan-2-one
(R)-(−)-Dihydro-5-(p-tolyl-sulfonyloxymethyl)-2(3H)-furanone (293 mg, 1.084 mmol) and potassium carbonate (180 mg, 1.301 mmol) were added to a solution of 4-{1-ethyl-1-[3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propyl}-2-methyl-phenol (Example 15-(2); 171 mg, 0.434 mmol) in N,N-dimethylformamide (1.5 mL) at room temperature, and the mixture was stirred at 110° C. for one hour. Ethyl acetate was added to the reaction solution. The organic layer was washed with brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (n-hexane/ethyl acetate=80/20 to ethyl acetate only) to give the title compound (164 mg, 76.8%).

reactant | (R)-(−)-Dihydro-5-(p-tolyl-sulfonyloxymethyl)-2(3H)-furanone | 1.084 mmol, 293 mg | C1(=CC=C(C=C1)S(=O)(=O)OC[C@H]1CCC(O1)=O)C | C12H14O5S
reactant | potassium carbonate | 1.301 mmol, 180 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-{1-ethyl-1-[3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propyl}-2-methyl-phenol | 0.434 mmol, 171 mg | C(C)C(CC)(C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C)C1=CC(=C(C=C1)O)C | C25H35BO3
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | (R)-5-(4-{1-ethyl-1-[3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propyl}-2-methyl-phenoxymethyl)-dihydro-furan-2-one | 164 mg, 76.8% | C(C)C(CC)(C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C)C1=CC(=C(OC[C@H]2CCC(O2)=O)C=C1)C | C30H41BO5
